US08193228B2
A mixture of 1-[2-fluoro-4-(5-fluoropyridin-2-yl)phenyl]ethanone (3.6 g, 15.3 mmol) and ethyl bromoacetate (12.8 g, 76.5 mmol) in tetrahydrofuran (35 mL) was added dropwise to a refluxing suspension of zinc (Reike, activated) (5 g) in tetrahydrofuran (100 mL). After stirring at reflux for a further 15 min, the reaction was cooled, poured into ice water and extracted with ethyl acetate. The combined organic extracts were washed with brine, dried (sodium sulfate) and concentrated in vacuo. Chromatography over silica eluting with 10-50% ethyl acetate/hexane over 48 fractions afforded ethyl 3-[2-fluoro-4-(5-fluoropyridin-2-yl)phenyl]-3-hydroxybutanoate.

reactant | 1-[2-fluoro-4-(5-fluoropyridin-2-yl)phenyl]ethanone | 15.3 mmol, 3.6 g | FC1=C(C=CC(=C1)C1=NC=C(C=C1)F)C(C)=O | C13H9F2NO
reactant | ethyl bromoacetate | 76.5 mmol, 12.8 g | BrCC(=O)OCC | C4H7BrO2
solvent | tetrahydrofuran | 35 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
catalyst | zinc | 5 g | [Zn] | Zn
product | ethyl 3-[2-fluoro-4-(5-fluoropyridin-2-yl)phenyl]-3-hydroxybutanoate | FC1=C(C=CC(=C1)C1=NC=C(C=C1)F)C(CC(=O)OCC)(C)O | C17H17F2NO3
